US04386031
(b) 8-{3.4.5-Trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid methyl ester
As described in example 3(b), the reaction is carried out with 6.3 g (20 mmol) of 8-[3-(trifluoromethyl)-phenylamino]-caprylic acid methyl ester, 6.9 g (30 mmol) of 3.4.5-trimethoxybenzoic acid chloride, 2.5 g (25 mmol) of triethylamine and 150 cc. of ether. Reaction time: 24 hours, reaction temperature: 25° C. The crude product is used in the next reaction step without further purification.

reactant | 8-[3-(trifluoromethyl)-phenylamino]-caprylic acid methyl ester | 20 mmol, 6.3 g | COC(CCCCCCCNC1=CC(=CC=C1)C(F)(F)F)=O | C16H22F3NO2
reactant | 3.4.5-trimethoxybenzoic acid chloride | 30 mmol, 6.9 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 8-{3.4.5-Trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=CC=C1)C(F)(F)F)=O | C26H32F3NO6
